US07250429B2
(4-Methoxytetrahydropyran-4-yl)methylamine
Under ice-cooling, a diethyl ether (5 ml) solution of 4-cyano-4-methoxytetrahydropyran (600 mg; Chemistry Letters, pp. 937-940, 1984) was added dropwise to a diethyl ether (10 ml) suspension of lithium aluminum hydride (242 mg) spending 20 minutes and, after completion of the dropwise addition, stirred at room temperature for 4 hours. After completion of the reaction, the reaction mixture was ice-cooled, and sodium sulfate decahydrate was gradually added to the reaction mixture until foaming stopped. After completion of the addition, the insoluble matter was filtered, and the filtered solid was washed with diethyl ether. The filtrate and washed solution were combined and concentrated under a reduced pressure to obtain the title compound (597 mg).

reactant | 4-cyano-4-methoxytetrahydropyran | C(#N)C1(CCOCC1)OC | C7H11NO2
reactant | lithium aluminum hydride | 242 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | (4-Methoxytetrahydropyran-4-yl)methylamine | 597 mg | COC1(CCOCC1)CN | C7H15NO2
